US06544985B2
[2-Amino-5-(ethyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [5-(ethyl-methyl-amino)-4-methyl-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C22) (3.28 g, 10.6 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a purple solid (2.94 g, 99%).

reactant | [5-(ethyl-methyl-amino)-4-methyl-2-nitro-phenyl]-carbamic acid tert-butyl ester | 10.6 mmol, 3.28 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)C)[N+](=O)[O-])=O | C15H23N3O4
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-5-(ethyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)C)N)=O | C15H25N3O2
